### PR TITLE
feat(RingTheory/GradedAlgebra): homogeneous relation

### PR DESCRIPTION
**Pull request by xyzw12345**
In this PR, we defined the concept of a homogeneous relation and proved some properties about homogeneous relations. The main result of this PR is showing that taking `RingQuot` by a homogeneous relation can give a graded structure on the quotient ring. This result can be used to define graded structures on rings obtained using `RingQuot`, e.g. the Symmetric Algebra defined in #21539 can be verified to have such a structure.

Co-authored-by: 
Zhixuan Dai @atstarrysky <22300180006@m.fudan.edu.cn>
Yiming Fu @pelicanhere <fakegreenall@foxmail.com>
Zhenyan Fu @pumpkin678 <fuzhenyan@mail.dlut.edu.cn>
Raphael Douglas Giles @Raph-DG <raphaeldouglasgiles@gmail.com>
Jiedong Jiang @jjdishere <emailboxofjjd@163.com>

- [x] depends on: #22354

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 1]
```diff
@@ -394,6 +394,43 @@ theorem finite_support (A : ι → S) (x : DirectSum ι fun i => A i) :
...
+variable [∀ i, AddCommMonoid (β i)] (f : ∀(i : ι), α i →+ β i)
+
+/-- create a homomorphism from `⨁ i, α i` to `⨁ i, β i` by giving the component-wise map `f`. -/
+def map : (⨁ i, α i) →+ ⨁ i, β i :=
+  DirectSum.toAddMonoid (fun i : ι ↦ (of β i).comp (f i))
+
+@[simp] lemma map_of (i : ι) (x : α i) : (map f) (of α i x) = of β i (f i x) := by
+  simp [map]
+
+@[simp] lemma map_apply (i : ι) (x : ⨁ i, α i) : (map f) x i = f i (x i) := by
```
Comment (Paul-Lez) [inline Mathlib/Algebra/DirectSum/Basic.lean:409]: It might be worth adding `map_id` and `map_comp` lemmas here.

**Review by Paul-Lez — COMMENTED** [review]
This is a relatively large PR, so I'd recommend splitting it into several dependent PRs (e.g. one with the lower level direct sum stuff, one with the other prerequisites, and one with the contents of the new file)  - this will help with the review process:)

File: Mathlib/RingTheory/GradedAlgebra/HomogeneousRelation.lean [hunk 2]
```diff
@@ -0,0 +1,322 @@
...
+
+lemma eqvGen_ringQuot_of_eqvGen {a b : A} (h : EqvGen rel a b) :
+    EqvGen (RingQuot.Rel rel) a b := Relation.EqvGen.mono (fun _ _ h' ↦ RingQuot.Rel.of h') h
+
+lemma eqvGen_ringQuot_add_right {a b c : A} (h : EqvGen (RingQuot.Rel rel) a b) :
+    EqvGen (RingQuot.Rel rel) (a + c) (b + c) := by
+  induction h with
+  | rel x y hxy =>
+  apply EqvGen.rel
+  exact RingQuot.Rel.add_left hxy
```
Comment (Paul-Lez) [inline Mathlib/RingTheory/GradedAlgebra/HomogeneousRelation.lean:54]: nit: these should be indented more so that they start at the same level as `rel x y hxy =>`

File: Mathlib/RingTheory/GradedAlgebra/HomogeneousRelation.lean [hunk 3]
```diff
@@ -0,0 +1,320 @@
...
+lemma Finset.relation_sum_induction {α : Type*} {s : Finset α} [DecidableEq α]
+    {M : Type*} [AddCommMonoid M] (f : α → M) (g : α → M) (r : M → M → Prop)
+    (hom : ∀ (a b c d : M), r a b → r c d → r (a + c) (b + d)) (unit : r 0 0)
+    (base : ∀ x ∈ s, r (f x) (g x)) :
+    r (∑ x ∈ s, f x) (∑ x ∈ s, g x) := by
+  induction s using Finset.induction with
+  | empty => simpa
+  | insert _ _ => simp_all
+
+lemma coe_mul_sum_support_subset {ι : Type*} {σ : Type*} {R : Type*} [DecidableEq ι]
```
Comment (pelicanhere) [inline Mathlib/RingTheory/GradedAlgebra/HomogeneousRelation.lean:97]: This lemma is might can be moved to `DirectSum`

**Comment by xyzw12345** [comment]
> This is a relatively large PR, so I'd recommend splitting it into several dependent PRs (e.g. one with the lower level direct sum stuff, one with the other prerequisites, and one with the contents of the new file) - this will help with the review process:)

You're right, I guess we should split the prerequisites into separate smaller PRs.

File: Mathlib/RingTheory/GradedAlgebra/HomogeneousRelation.lean [hunk 4]
```diff
@@ -0,0 +1,324 @@
...
+    show f (GradedRing.proj 𝒜 i x) = f (GradedRing.proj 𝒜 i y)
+    rw [hf, RingQuot.mkAlgHom_eq_iff' R] at hxy ⊢
+    have : IsHomogeneousRelation 𝒜 (RingConGen.Rel rel) := inferInstance
+    have := this.is_homogeneous' hxy i
+    rw [← RingQuot.eqvGen_rel_eq rel, Equivalence.eqvGen_eq (Relation.EqvGen.is_equivalence _),
+      RingQuot.eqvGen_rel_eq] at this
+    exact this
+  · intro x; rw [← hu]; obtain ⟨x, rfl⟩ := RingQuot.mkAlgHom_surjective R rel x
+    use g (e x); show (u.comp g) (e x) = (f x)
+    simp [← h_comp]
```
Comment (ocfnash) [inline Mathlib/RingTheory/GradedAlgebra/HomogeneousRelation.lean:320]: I'm not convinced this is the right approach to proving this. It looks to me like it embeds various useful constructions and avoids using much of the technology we have for this job.

Have you tried looking in the library for how other `GradedAlgebra` structures were established?

Looking myself now it seems like [GradedAlgebra.ofAlgHom](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/GradedAlgebra/Basic.html#GradedAlgebra.ofAlgHom) is probably the right tool. I believe the below is a possible approach:
```suggestion
open DirectSum

def foo : (⨁ i, 𝒜 i) →ₐ[R] ⨁ i, (Submodule.map (RingQuot.mkAlgHom R rel) ∘ 𝒜) i := by
  apply toAlgebra R (fun i ↦ 𝒜 i)
    (fun i ↦ (lof R ι _ i).comp <| (RingQuot.mkAlgHom R rel).toLinearMap.submoduleMap (𝒜 i))
  · sorry
  · sorry

def bar : RingQuot rel →ₐ[R] ⨁ i, (Submodule.map (RingQuot.mkAlgHom R rel) ∘ 𝒜) i := by
  refine RingQuot.liftAlgHom (S := R) ⟨(foo 𝒜 rel).comp (decomposeAlgEquiv 𝒜), fun x y hxy ↦ ?_⟩
  sorry

instance : GradedAlgebra ((Submodule.map (RingQuot.mkAlgHom R rel)).comp 𝒜) := by
  apply GradedAlgebra.ofAlgHom _ (bar 𝒜 rel)
  · sorry
  · sorry
```
It is also possible there might be constructions of `foo` / `bar` with more convenient definitional properties.

**Comment by grunweg** [comment]
Hello @ocfnash. On behalf of the [reviewer auto-assignment algorithm](https://github.com/leanprover-community/queueboard/blob/c14ec731bf62c8ca462609091b1345c5b9fece17/suggested_assignments.json), I'm assigning this PR to you.

**Comment by ocfnash** [comment]
I like this PR and I'd like to get it resolved. Thank you all for the work so far!

Before we go further I think we need to settle some design decisions.

First, I have some remarks about existing definitions as follows:
- [TwoSidedIdeal](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/TwoSidedIdeal/Basic.html#TwoSidedIdeal) Two-sided ideals, very general (in particular no commutativity / unitality assumed)
- [RingCon](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Congruence/Defs.html#RingCon) An implementation detail en route to `TwoSidedIdeal`
- [HomogenousIdeal](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/GradedAlgebra/Homogeneous/Ideal.html#HomogeneousIdeal) Homogenous _left_ ideals, expect only useful in commutative (unital) world
- [RingQuot](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/RingQuot.html#RingQuot) A legacy adhoc construction, which we should phase out in favour of working with `TwoSidedIdeal`

Assuming I've got the above correct (ping @eric-wieser in case he has bandwidth to add some remarks) I believe two weaknesses of the current design are:

- it uses the language of relations rather than ideals
- it uses the legacy `RingQuot`

Bearing all of the above in mind, I have the following questions:

1. Do we really want to have a notion of a homogeneous relation, that does not necessarily come from an ideal (or at least a submodule)?
2. If the answer to 1 is "no", is there any reason why we should not work on top of `TwoSidedIdeal` rather than using relations and `RingQuot`? If so, it seems that `HomogenousIdeal` would provide some design inspiration, in particular using [Submodule.IsHomogeneous](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.html#Submodule.IsHomogeneous). (In an ideal world we would not have both `HomogenousIdeal` and the hypothetical `HomogenousTwoSidedIdeal`, but this is part of a separate concern.)

**Comment by xyzw12345** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/27307
